US07939533B2
b) 5′-{[2-(3,5-Bis-trifluoromethyl-phenyl)-2-methyl-propionyl]-methyl-amino}-4′-(4-fluoro-2-methyl-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-sulfonic Acid
To a suspension of 0.16 g (0.24 mmol) thioacetic acid 5′-{[2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl]-methyl-amino}-4′-(4-fluoro-2-methyl-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl ester in 1 ml acetic acid were added 0.12 ml (1.2 mmol) of a 30% aqueous solution of hydrogen peroxide at room temperature. After heating to 60° C., a clear solution was obtained. Stirring was continued at this temperature for 20 h. After cooling to room temperature an aqueous solution of sodium hydrogensulfite was added and the mixture was stirred for 10 min. Acidification with 1 N aqueous hydrochloride solution to pH 1 was followed by extraction with three portions of dichloromethane. The combined organic extracts were dried over sodium sulphate and concentrated. Flash column chromatography gave 0.13 g (83%) of the title compound as a light yellow solid.

reactant | thioacetic acid 5′-{[2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl]-methyl-amino}-4′-(4-fluoro-2-methyl-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl ester | 0.24 mmol, 0.16 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C=1C(=CC(=NC1)N1CCC(CC1)OC(C)=S)C1=C(C=C(C=C1)F)C)C)(C)C)(F)F | C32H32F7N3O2S
reactant | hydrogen peroxide | OO | H2O2
reactant | sodium hydrogensulfite | S(=O)(O)[O-].[Na+]
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 5′-{[2-(3,5-Bis-trifluoromethyl-phenyl)-2-methyl-propionyl]-methyl-amino}-4′-(4-fluoro-2-methyl-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-sulfonic Acid | 0.13 g, 83% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C=1C(=CC(=NC1)N1CCC(CC1)S(=O)(=O)O)C1=C(C=C(C=C1)F)C)C)(C)C)(F)F | C30H30F7N3O4S
